US04526960
5.0 g of methyl 3-acetamido-2,3,6-trideoxy-β-L-lyxohexopyranoside were heated at 45° C. in the dark in a mixture of 25 ml of ethyl iodide and 20 ml of dimethylformamide containing 10 g of silver oxide. After 17 hours, the mixture was filtered through Celite and the filtrate was evaporated. The gum obtained was purified by column chromatography to give 3.4 g of methyl 3-acetamido-2,3,6-trideoxy-4-O-ethyl-β-L-lyxohexopyranoside in the form of colourless crystals of melting point 199°-200° C.; [α]D20 =-75.0° (c=0.5% in methanol).

reactant | methyl 3-acetamido-2,3,6-trideoxy-β-L-lyxohexopyranoside | 5.0 g | C(C)(=O)N[C@H]1C[C@@H](OC)O[C@H]([C@H]1O)C | C9H17NO4
reactant | ethyl iodide | 25 ml | C(C)I | C2H5I
solvent | dimethylformamide | 20 ml, 10 g | CN(C=O)C | C3H7NO
catalyst | silver oxide | [Ag]=O
product | methyl 3-acetamido-2,3,6-trideoxy-4-O-ethyl-β-L-lyxohexopyranoside | 3.4 g | C(C)(=O)N[C@H]1C[C@@H](OC)O[C@H]([C@H]1OCC)C | C11H21NO4
